US06613718B2
A mixture of 2-chloro-4-fluoro-5-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-phenol (5.0 g) and N-chlorosuccinimide (2.65 g) in N,N-dimethylformamide (30 ml) was stirred at 65° C. for 2 hours. The resulting mixture was poured into water and the precipitate was collected by filtration and dried. 2-Chloro-5-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-fluorophenol (5.50 g) was obtained as a white solid.

reactant | 2-chloro-4-fluoro-5-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-phenol | 5.0 g | ClC1=C(C=C(C(=C1)F)C1=NN2C(CCCC2)=C1)O | C13H12ClFN2O
reactant | N-chlorosuccinimide | 2.65 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-5-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-fluorophenol | 5.50 g | ClC1=C(C=C(C(=C1)F)C1=NN2C(CCCC2)=C1Cl)O | C13H11Cl2FN2O
